US08084448B2
A. 2-Prop-2-ynyl-tetrahydrothiophene 1,1-dioxide
To a solution of sulfolane (1.0 g, 8.32 mmol) in THF (5 mL) at −78° C. is added n-butyllithium (5.7 mL of 1.6 M in hexane, 9.1 mmol) dropwise and the solution is stirred at −78° C. for 20 min. To this is added a solution of propargyl bromide (992 mg, 8.34 mmol) in THF (5 mL) dropwise and the mixture is allowed to warm to RT overnight. The mixture is quenched with 1N HCl and extracted with EtOAc. The organic phase is dried over magnesium sulfate and the solvent removed under reduced pressure. The residue is purified by flash chromatography using hexane/EtOAc (6:4) as eluent to give the title compound.

reactant | sulfolane | 8.32 mmol, 1.0 g | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | n-butyllithium | 9.1 mmol, 1.6 M, 5.7 mL | C(CCC)[Li]
reactant | propargyl bromide | 8.34 mmol, 992 mg | C(C#C)Br | C3H3Br
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-Prop-2-ynyl-tetrahydrothiophene 1,1-dioxide | C(C#C)C1S(CCC1)(=O)=O | C7H10O2S
